US06933387B2
c) (R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-1,6,7,8-tetrahydro-1-aza-as-indacene-2-carboxylic acid ethyl ester
The title compound was prepared in accordance with the general method of example 12b) from b) 1,6,7,8-tetrahydro-1-aza-as-indacene-2-carboxylic acid ethyl ester and (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester.

reactant | 1,6,7,8-tetrahydro-1-aza-as-indacene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=C3CCCC3=CC=C2C1 | C14H15NO2
reactant | (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1S(O[C@H](C1)C)(=O)=O | C8H15NO5S
product | (R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-1,6,7,8-tetrahydro-1-aza-as-indacene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=C3CCCC3=CC=C2C1)[C@@H](CNC(=O)OC(C)(C)C)C | C22H30N2O4
